US08212077B2
Step A: 7-Methoxy-1-naphthyl trifluoromethanesulphonate
In a reactor, 2.7 g of 7-methoxy-1-naphthol, 1.1 eq. of triflic anhydride and 1.1 eq. of 2,6-di-tert-butyl-4-methyl-pyridine are introduced into dichloromethane (45 ml). The mixture is heated at reflux for 12 hours and then filtered, and the liquors are washed with 1N HCl solution and then with saturated NaCl solution. The organic phase is evaporated and the residue obtained is purified by chromatography on silica gel (eluant: CH2Cl2/methyl-cyclohexane 1/9) to yield the title product in the form of an oil in a yield of 91% and with a chemical purity of more than 99%.

reactant | 7-methoxy-1-naphthol | 2.7 g | COC1=CC=C2C=CC=C(C2=C1)O | C11H10O2
reactant | triflic anhydride | 1.1 eq. | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | 2,6-di-tert-butyl-4-methyl-pyridine | 1.1 eq. | C(C)(C)(C)C1=NC(=CC(=C1)C)C(C)(C)C | C14H23N
solvent | dichloromethane | 45 ml | ClCCl | CH2Cl2
product | 7-Methoxy-1-naphthyl trifluoromethanesulphonate | yield of 91% | FC(S(=O)(=O)OC1=CC=CC2=CC=C(C=C12)OC)(F)F | C12H9F3O4S
